US06673799B1
6-Methylaminonicotinic acid
A 20 ml pyridine solution of 10 g of 6-chloronicotinic acid and 27 ml of 40% methylamine aqueous solution was heated at 150° C. for 24 hours in a sealed tube. After spontaneous cooling to room temperature, this was mixed with water and adjusted to pH 3 with 1 N aqueous hydrochloric acid. The precipitated crystals were collected by filtration to obtain 5.82 g of the title compound as grayish white crystals.

reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | 6-chloronicotinic acid | 10 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | methylamine | 27 ml | CN | CH5N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | O | H2O
product | 6-Methylaminonicotinic acid | 5.82 g | CNC1=NC=C(C(=O)O)C=C1 | C7H8N2O2
